US05817599
Synthesis of N-octadecyloxamide
13.5 Grams of octadecylamine, 6.4 g of ethyl oxamate and 200 ml of ethanol were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and refluxed with heating for 1 hour. The reaction mixture was cooled to room temperature and the precipitated crystal was filtered off under reduced pressure and was recrystallized from ethanol to obtain 12.8 g of the desired product. m.p. 169° C.

reactant | octadecylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | ethyl oxamate | 6.4 g | C(C(=O)N)(=O)OCC | C4H7NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-octadecyloxamide | 12.8 g | C(CCCCCCCCCCCCCCCCC)NC(=O)C(=O)N | C20H40N2O2
